US07425358B2
Synthesis of a copolycarbonate from bisphenol A/4,4′-dihydroxydiphenyl ether (Molar Ratio 50:50)
126 ml of methylene chloride are added to a solution, rendered inert with nitrogen, of 8.088 g (0.04 mol.) of 4,4′-dihydroxydiphenyl ether and 9.132 g (0.04 mol.) of bisphenol A as well as 7.04 g (0.176 mol.) of sodium hydroxide in 126 ml of water. In a one-step procedure, 0.42 g (0.0028 mol. or 3.5 mol. % relative to bisphenol) of p-tert.-butylphenol (BUP) are added as chain terminator. At a pH value of 14 and at room temperature, 11 ml (15.8 g, 0.16 mol.) of phosgene are added in the course of 10 minutes. In order to prevent the pH value from falling below 12, 25% sodium hydroxide solution was added during the phosgenation. When the phosgenation is complete, and after rinsing with nitrogen, 0.11 ml (0.0008 mol., 1 mol. % relative to bisphenol) of n-ethylpiperidine is added as catalyst, and stirring is then carried out for one hour. The aqueous phase is separated off, and the organic phase is acidified with phosphoric acid and washed with distilled water until neutral and free of salt. Precipitation of the polymer in methanol and drying yield 5.76 g of polycarbonate.

reactant | 4,4′-dihydroxydiphenyl ether | 0.04 mol, 8.088 g | C1=CC(=CC=C1O)OC2=CC=C(C=C2)O | C12H10O3
reactant | bisphenol A | 0.04 mol, 9.132 g | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | sodium hydroxide | 0.176 mol, 7.04 g | [OH-].[Na+]
reactant | p-tert.-butylphenol | 0.0028 mol, 0.42 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | phosgene | 0.16 mol, 11 ml, 15.8 g | C(=O)(Cl)Cl | CCl2O
reactant | n-ethylpiperidine | 0.0008 mol, 0.11 ml | C(C)N1CCCCC1 | C7H15N
solvent | water | 126 ml | O | H2O
solvent | methylene chloride | 126 ml | C(Cl)Cl | CH2Cl2
product | bisphenol A 4,4′-dihydroxydiphenyl ether | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O.C1=CC(=CC=C1O)OC2=CC=C(C=C2)O | InChI=1S/C15H16O2.C12H10O3/c1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;13-9-1-5-11(6-2-9)15-12-7-3-10(14)4-8-12/h3-10,16-17H,1-2H3;1-8,13-14H
